US05358946
A solution of 5-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]pentanoic acid (1.91 g, 4.63 mmol) and 1-hydroxy-1H-benzotriazole hydrate (890 rag, 6.59 mmol) in tetrahydrofuran (20 mL) was cooled to 0° C., and treated with 2-aminoethylmorpholine (1.0 mL, 7.62 mmol). After 20 minutes, dicyclohexylcarbodiimide (1.42 g, 6.88 mmol) was added in small portions over 20 minutes. This mixture was allowed to stir an additional 48 hours, then poured into ethyl acetate (250 mL), filtered, and washed with water (200 mL). The phases were separated, and the aqueous phase was saturated with sodium chloride and reextracted with methylene chloride (200 mL). The organic phases were combined, dried over anhydrous sodium sulfate and evaporated. The mixture was separated by flash chromatography to afford the product, N-(2-morpholinyl-ethyl)-5-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-pentanamide, as an oil (1.77 g, 3.37 mmol, 73%). 1H NMR (CDCl3): 7.42 (4H, br d, J=9 Hz); 6.82 (4H, d, J=9 Hz); 6.22 (1H, br t, J=4 Hz); 3.80 (6H, s); 3.65-3.60 (4H, m); 3.15 (2H, q, J=6 Hz); 2.98 (2H, t, J=7 Hz); 2.38-2.24 (8H, m); 1.96-1.85 (2H, m); 1.70-1.60 (2H, m).

reactant | 5-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]pentanoic acid | 4.63 mmol, 1.91 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SCCCCC(=O)O | C22H24N2O4S
reactant | 1-hydroxy-1H-benzotriazole hydrate | 6.59 mmol | O.ON1N=NC2=C1C=CC=C2
reactant | 2-aminoethylmorpholine | 7.62 mmol, 1.0 mL | NCCN1CCOCC1 | C6H14N2O
reactant | dicyclohexylcarbodiimide | 6.88 mmol, 1.42 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-morpholinyl-ethyl)-5-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-pentanamide | N1(CCOCC1)CCNC(CCCCSC=1NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C28H36N4O4S
